US04377522
From 4.75 g (0.014 mol) of 7-amino-9-chloro-5-(o-fluorophenyl)-1,3-dihydro-1,3,3-trimethyl-2H-1,4-benzodiazepin-2-one there is obtained, in analogy to the details in Example 30, 7-amino-8,9-dichloro-5-(o-fluorophenyl)-1,3-dihydro-1,3,3-trimethyl-2H-1,4-benzodiazepin-2-one of melting point 169°-172° (ether).

reactant | 7-amino-8,9-dichloro-5-(o-fluorophenyl)-1,3-dihydro-1,3,3-trimethyl-2H-1,4-benzodiazepin-2-one | NC=1C(=C(C2=C(C(=NC(C(N2C)=O)(C)C)C2=C(C=CC=C2)F)C1)Cl)Cl | C18H16Cl2FN3O
solvent | ether | CCOCC | C4H10O
product | 7-amino-9-chloro-5-(o-fluorophenyl)-1,3-dihydro-1,3,3-trimethyl-2H-1,4-benzodiazepin-2-one | 0.014 mol, 4.75 g | NC=1C=C(C2=C(C(=NC(C(N2C)=O)(C)C)C2=C(C=CC=C2)F)C1)Cl | C18H17ClFN3O
